US04335042
7-Chloro-1,3-dihydro-5-phenyl-2H- 1,4-benzodiazepin-2-ylidenepropanedioic acid diethyl ester
Diethylmalonate (45.55 ml) was added to tetrahydrofuran (200 ml). The mixture was maintained at room temperature while sodium hydride (16 g of a 60% oil dispersion) was added over 1 hr. To the resulting suspension, diethyl chlorophosphate (14.45 ml) was added dropwise over 50 minutes. After a 30 minute agitation cycle, a THF solution of 7-chloro-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (13.54 g) was added dropwise over 20 minutes. The resulting solution was allowed to agitate for 1 hr. The pH was adjusted with acetic acid from 5.0 to 5.5, and the reaction solution was concentrated under vacuum (40° C./30 mm) to remove the THF. To the residue was added cold water (600 ml) and hexane (100 ml). The crystalline solid obtained was filtered and washed with water and hexane. After the solid was dried, the end product was obtained.

reactant | Diethylmalonate | 45.55 ml | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | sodium hydride | [H-].[Na+]
reactant | diethyl chlorophosphate | 14.45 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | 7-chloro-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 13.54 g | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1 | C15H11ClN2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 7-Chloro-1,3-dihydro-5-phenyl-2H- 1,4-benzodiazepin-2-ylidenepropanedioic acid diethyl ester | C(C)OC(C(C(=O)OCC)=C1NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C22H21ClN2O4
